US04497815
Cyclopentylisocyanate, 5.67 g, was allowed to react with 5-fluorouracil, 4.6 g, in 17 g of pyridine at 90° C. for 2 hr, then the pyridine was evaporated and the residue was shaken with 100 ml of dichloromethane and 100 ml of hydrochloric acid water. The lower layer of the mixture was dried and exsiccated. The residue was recrystallized from ethanol and 8.3 g of 1-cyclopentylcarbamoyl-5-fluorouracil (melting point: 137° C.) was obtained (Compound No. 9) was obtained. NMR: 1.00-2.28 (6H b CH) 3.56-4.12 (1H b CH--NHCO) 8.40 (1H d C6 --H) 8.68-9.08 (1H b NHCO) 9.48 (1H b N3 --H).

reactant | Cyclopentylisocyanate | C1(CCCC1)N=C=O | C6H9NO
reactant | 5-fluorouracil | FC=1C(NC(NC1)=O)=O | C4H3FN2O2
solvent | pyridine | 17 g | N1=CC=CC=C1 | C5H5N
product | 1-cyclopentylcarbamoyl-5-fluorouracil | 8.3 g | C1(CCCC1)NC(=O)N1C(=O)NC(=O)C(=C1)F | C10H12FN3O3
